US05338857
A solution of 25 g (0.18 mol) of 4-methoxybenzaldehyde in 100 ml of ethanol was added dropwise under ice cooling to a solution of 15.3 g (0.22 mol) of hydroxylamine hydrochloride and 11.0 g (0.28 mol) of sodium hydroxide in 100 ml of water. After completion of the dropwise addition, the resulting mixture was stirred at room temperature for 30 minutes and ethanol was distilled off under reduced pressure. An insoluble solid was then collected by filtration. The solid was washed with water and hexane. The washings were combined with the filtrate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off, whereby 4-methoxybenzaldoxime was obtained as a colorless liquid. Its yield was 23.7 g (85%). It was then provided for the next reaction without further purification.

reactant | 4-methoxybenzaldehyde | 0.18 mol, 25 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | hydroxylamine hydrochloride | 0.22 mol, 15.3 g | Cl.NO
reactant | sodium hydroxide | 0.28 mol, 11.0 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-methoxybenzaldoxime | COC1=CC=C(C=NO)C=C1 | C8H9NO2
